US05554607
3-(2-Ethyl-6-isopropylphenyl)-1-methyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 1 using 10.25 g of 2-ethyl-6-isopropylphenyl-isothiocyanate, 7.68 g of sarcosine ethyl ester hydrochloride, 14.8 g of triethyl amine, and 200 mL of chloroform. Crystallization from diethyl ether/hexane mixture afforded the title compound (8.95 g) as a tan solid, m.p. 132°-134° C. Anal. Calcd. for C15H20N2O S: C, 65.18; H, 7.29; N, 10.13. Found: C, 65.11; H, 7.31; N, 10.05. Mass spectrum (PBEI, M.+) m/z 276.

reactant | 2-ethyl-6-isopropylphenyl-isothiocyanate | 10.25 g | C(C)C1=C(C(=CC=C1)C(C)C)N=C=S | C12H15NS
reactant | sarcosine ethyl ester hydrochloride | 7.68 g | Cl.C(C)OC(CNC)=O
reactant | triethyl amine | 14.8 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-Ethyl-6-isopropylphenyl)-1-methyl-2-thioxo-imidazolidin-4-one | 8.95 g | C(C)C1=C(C(=CC=C1)C(C)C)N1C(N(CC1=O)C)=S | C15H20N2OS
